US09163023B2
3-Chloro-5-(1-methyl-1H-indazol-5-yl)-1,2,4-thiadiazole
A solution of 3,5-dichloro-1,2,4-thiadiazole (100 mg, 0.645 mmol), Na2CO3 (0.968 mL, 1.935 mmol) and (1-methyl-1H-indazol-5-yl)boronic acid (114 mg, 0.645 mmol) in DMF (4 mL) was degassed under N2 for 10 min. Pd(Ph3P)4 (149 mg, 0.129 mmol) was added and the mixture was stirred at 80° C. for 2 h. The reaction mixture was cooled to ambient temperature and diluted with EtOAc. The organics were washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by preparative TLC (5% MeOH/DCM) to afford the title compound as a solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.12 (s, 3H) 7.50 (d, J=8.79 Hz, 1H) 7.94 (d, J=8.79 Hz, 1H) 8.11 (s, 1H) 8.39 (s, 1H). LC/MS (m/z) ES+=251(M+1).

reactant | 3,5-dichloro-1,2,4-thiadiazole | 0.645 mmol, 100 mg | ClC1=NSC(=N1)Cl | C2Cl2N2S
reactant | Na2CO3 | 1.935 mmol, 0.968 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (1-methyl-1H-indazol-5-yl)boronic acid | 0.645 mmol, 114 mg | CN1N=CC2=CC(=CC=C12)B(O)O | C8H9BN2O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.129 mmol, 149 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-5-(1-methyl-1H-indazol-5-yl)-1,2,4-thiadiazole | ClC1=NSC(=N1)C=1C=C2C=NN(C2=CC1)C | C10H7ClN4S
